US07691893B2
Preparation 22: 1,1-dimethylethyl 4-(3,4-dichlorophenyl)-5-(hydroxymethyl)-2-methyl-3,6-dihydro-1(2H)-pyridinecarboxylate (P22)
A mixture of regioisomers 1-(1,1-dimethylethyl) 3-ethyl 4-(3,4-dichlorophenyl)-6-methyl-5,6-dihydro-1,3(2H)-pyridinedicarboxylate and 1-(1,1-dimethylethyl) 3-ethyl 4-(3,4-dichlorophenyl)-2-methyl-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (P21, 0.45 g) was dissolved in toluene (15 mL) and cooled to −20° C. Lithium aluminium hydride 1.0M in THF (0.869 mL) was added dropwise at −20° C. and the mixture was stirred at this temperature for 2 h. The reaction was then quenched with a saturated solution of NH4Cl (10 mL) and diluted with ethyl acetate (20 mL); the organic layer was separated, washed with water (20 mL), dried and concentrated in vacuo. Purification by chromatography on silica gel eluting with a gradient 100% cyclohexane-50% cyclohexane/ethyl acetate afforded 240 mg of title compound as colourless oil. The structure of the major regioisomer was confirmed by nOe NMR experiments.

reactant | 1-(1,1-dimethylethyl) 3-ethyl 4-(3,4-dichlorophenyl)-6-methyl-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | ClC=1C=C(C=CC1Cl)C1=C(CN(C(C1)C)C(=O)OC(C)(C)C)C(=O)OCC | C20H25Cl2NO4
reactant | 1-(1,1-dimethylethyl) 3-ethyl 4-(3,4-dichlorophenyl)-2-methyl-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 0.45 g | ClC=1C=C(C=CC1Cl)C1=C(C(N(CC1)C(=O)OC(C)(C)C)C)C(=O)OCC | C20H25Cl2NO4
reactant | Lithium aluminium hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 0.869 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 4-(3,4-dichlorophenyl)-5-(hydroxymethyl)-2-methyl-3,6-dihydro-1(2H)-pyridinecarboxylate | 240 mg | ClC=1C=C(C=CC1Cl)C=1CC(N(CC1CO)C(=O)OC(C)(C)C)C | C18H23Cl2NO3
